US04889857
A solution of 0.54 g of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 0.60 g of 2-chloromethylmorpholine in 20 ml of dimethyl sulfoxide is stirred at 120° C. for 8 hours. The reaction mixture is concentrated under reduced pressure and to the residue is added water followed by extracting with chloroform. The organic layer is washed with water, dried over anhydrous magnesium sulfate and then the solvent is distilled off. Further, the obtained crystals are recrystallized from chloroform-methanol to give 7-(2-chloromethylmorpholino)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, melting at 212°-215° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.54 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 2-chloromethylmorpholine | 0.60 g | ClCC1CNCCO1 | C5H10ClNO
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 7-(2-chloromethylmorpholino)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | ClCC1OCCN(C1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C17H17ClF2N2O4
